US04636563
8-Fluoro-2,3,4,5-tetrahydro-2-[2-(4-pyridinyl)ethyl]1H-pyrido[4,3-b]indole
The title compound was prepared following the procedure of Example 2 with the exception 4-vinylpyridine was used instead of 2-vinylpyridine. The product was converted to the dihydrochloride salt; mp. 233°-235° C.

reactant | 4-vinylpyridine | C(=C)C1=CC=NC=C1 | C7H7N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 8-Fluoro-2,3,4,5-tetrahydro-2-[2-(4-pyridinyl)ethyl]1H-pyrido[4,3-b]indole | FC1=CC=2C3=C(NC2C=C1)CCN(C3)CCC3=CC=NC=C3 | C18H18FN3
